US05856273
Step 1 Preparation of 3-nitro-5-trifluoromethylaniline (ref J. Med Chem. 1981, 24, 742)
3,5-Dinitrobenzotrifluoride (10 g) was dissolved in a mixture of methanol (200 ml) and 1,4-dioxane (125 ml) and heated under reflux. To this solution was added concentrated hydrochloric acid (30 ml) and then in small portions, reduced iron powder (9 g). CARE: violent effervescence. Refluxing was continued for a further 1 hour and the reaction mixture allowed to cool to room temperature. The mixture was filtered through `Celite` and the pad washed well with dichloromethane. The solvents were removed under reduced pressure to give a residue which was partitioned between dichloromethane and water. The organic layer was washed with brine, dried (MgSO4) and evaporated under reduced pressure to give a brown semi-solid (8 g). This was chromatographed on silica gel using ethyl acetate-hexane (1:9) as eluant to give the title compound as fine golden crystals, yield 4.98 g.

reactant | 3,5-Dinitrobenzotrifluoride | 10 g | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C(F)(F)F | C7H3F3N2O4
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | 1,4-dioxane | 125 ml | O1CCOCC1 | C4H8O2
product | 3-nitro-5-trifluoromethylaniline | 8 g | [N+](=O)([O-])C=1C=C(N)C=C(C1)C(F)(F)F | C7H5F3N2O2
